US07064123B1
Synthesis of 2-(2-morpholin-4-yl-2-oxo-ethyl)-acrylic acid (1)
Morpholine (20 mL, 228.6 mmol) was slowly added to a stirring solution of itaconic anhydride (25.1 g, 228.6 mmol) suspended in dichloromethyl at 0° C. The reaction mixture was allowed to slowly warm to room temperature. Upon completion (LCMS), volatiles were removed by vacuum under reduced pressure. Crude yield: 44.96 g, 99%. Product was used without further purification.

reactant | Morpholine | 228.6 mmol, 20 mL | N1CCOCC1 | C4H9NO
reactant | itaconic anhydride | 228.6 mmol, 25.1 g | C1(C(=C)CC(=O)O1)=O | C5H4O3
product | 2-(2-morpholin-4-yl-2-oxo-ethyl)-acrylic acid | N1(CCOCC1)C(CC(C(=O)O)=C)=O | C9H13NO4
